US06642222B2
Methyl[(1-ethynylcyclopentyl)oxy]acetate
A mechanically stirred suspension of sodium hydride (60% dispersion in mineral oil, 1.5 g, 38 mmol) in tetrahydrofuran (10 mL) at 0 C. under nitrogen was treated with a solution of 1-ethynylcyclopentanol (5.0 g, 45 mmol) in tetrahydrofuran (20 mL) over 15 minutes. After stirring at 0 C. for 1 hour, the mixture was treated with methyl bromoacetate (5.4 mL, 56 mmol). after stirring at ambient temperature for 16 hours, the mixture was treated with 2M HCl (25 mL) and then treated with ethyl acetate (25 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (50 mL). The organic layers were combined, washed with brine, dried (MgSO4), filtered, concentrated and used without purification in the next step.

reactant | sodium hydride | 38 mmol, 1.5 g | [H-].[Na+]
reactant | 1-ethynylcyclopentanol | 45 mmol, 5.0 g | C(#C)C1(CCCC1)O | C7H10O
reactant | methyl bromoacetate | 56 mmol, 5.4 mL | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 2M, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | Methyl[(1-ethynylcyclopentyl)oxy]acetate | COC(COC1(CCCC1)C#C)=O | C10H14O3
